* NGSPICE file created from hx_loop_capacitor.ext - technology: ihp-sg13g2

.subckt hx_loop_capacitor SIGP VSS
X0 VSS.t10 SIGP VSS.t12 VSS.t11 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X1 VSS.t30 SIGP VSS.t28 VSS.t13 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X2 VSS.t6 SIGP VSS.t8 VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X3 VSS.t32 SIGP VSS.t30 VSS.t15 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X4 VSS.t2 SIGP VSS.t1 VSS.t0 sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X5 VSS.t28 SIGP VSS.t26 VSS.t11 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X6 VSS.t1 SIGP VSS.t4 VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X7 VSS.t8 SIGP VSS.t10 VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X8 VSS.t26 SIGP VSS.t24 VSS.t9 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X9 VSS.t14 SIGP VSS.t16 VSS.t15 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X10 VSS.t18 SIGP VSS.t17 VSS.t0 sg13_lv_nmos ad=2.38p pd=14.68u as=0 ps=0 w=7u l=7u
X11 VSS.t22 SIGP VSS.t20 VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X12 VSS.t24 SIGP VSS.t22 VSS.t7 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X13 VSS.t12 SIGP VSS.t14 VSS.t13 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X14 VSS.t20 SIGP VSS.t18 VSS.t3 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
X15 VSS.t4 SIGP VSS.t6 VSS.t5 sg13_lv_nmos ad=1.33p pd=7.38u as=0 ps=0 w=7u l=7u
R0 VSS.n8 VSS.t11 9.64647
R1 VSS.t15 VSS.n1 12.062
R2 VSS.n6 VSS.n0 0.00139074
R3 VSS.n5 VSS.t3 19.6188
R4 VSS.t9 VSS.n9 19.6189
R5 VSS.n0 VSS.n9 0.00119758
R6 VSS.n5 VSS.t0 0.0013662
R7 VSS.n6 VSS.t5 15.9913
R8 VSS.n21 VSS.n0 17.0005
R9 VSS.n0 VSS.n1 0.00171407
R10 VSS.n8 VSS.n0 0.00106784
R11 VSS.n2 VSS.n0 0.00224379
R12 VSS.n19 VSS.n2 1.56781
R13 VSS.n2 VSS.n11 0.00485543
R14 VSS.n19 VSS.n13 3.40102
R15 VSS.n19 VSS.n14 3.40102
R16 VSS.n19 VSS.n17 3.40102
R17 VSS.n15 VSS.n14 0.00279989
R18 VSS.n20 VSS.n4 1.06206
R19 VSS.n0 VSS.n18 8.47732
R20 VSS.n13 VSS.n11 0.00319994
R21 VSS.n14 VSS.n12 0.00319994
R22 VSS.n17 VSS.n15 0.00319994
R23 VSS.n19 VSS.n7 1.70035
R24 VSS.n19 VSS.n3 2.4293
R25 VSS.n20 VSS.n10 0.0019886
R26 VSS.n20 VSS.n11 3.40076
R27 VSS.n20 VSS.n12 3.40076
R28 VSS.n20 VSS.n15 3.40076
R29 VSS.n20 VSS.n16 3.40076
R30 VSS.n4 VSS.n7 0.00781479
R31 VSS.n4 VSS.n3 0.00483812
R32 VSS.n10 VSS.n0 2.12588
R33 VSS.n22 VSS.t17 1.2096
R34 VSS.n23 VSS.n22 1.19657
R35 VSS.t20 VSS.t22 1.18726
R36 VSS.t8 VSS.t6 1.18726
R37 VSS.t12 VSS.t10 1.18188
R38 VSS.t6 VSS.t4 1.17786
R39 VSS.t22 VSS.t24 1.17786
R40 VSS.t16 VSS.t14 1.17463
R41 VSS.t1 VSS.t2 1.17241
R42 VSS.t26 VSS.t28 1.17241
R43 VSS.t17 VSS.t18 1.16092
R44 VSS.t30 VSS.t32 1.15741
R45 VSS.t28 VSS.t30 1.13252
R46 VSS.t12 VSS.t14 1.13154
R47 VSS.t18 VSS.t20 1.12501
R48 VSS.t24 VSS.t26 1.11752
R49 VSS.t4 VSS.t1 1.11752
R50 VSS.t10 VSS.t8 1.10748
R51 VSS.t16 VSS 0.39266
R52 VSS.t22 VSS.n0 0.150099
R53 VSS.t6 VSS.n0 0.150099
R54 VSS.t30 VSS.n0 0.139355
R55 VSS.t26 VSS.n0 0.139355
R56 VSS.t1 VSS.n0 0.139355
R57 VSS.t10 VSS.n0 0.139321
R58 VSS.t14 VSS.n0 0.129264
R59 VSS.t18 VSS.n0 0.119905
R60 VSS.n22 VSS.n0 0.110075
R61 VSS.n23 VSS.n18 0.0846176
R62 VSS.t2 VSS.n18 0.0708676
R63 VSS.n21 VSS.t16 0.058
R64 VSS.t17 VSS 0.05425
R65 VSS VSS.n23 0.05425
R66 VSS.t32 VSS.n21 0.038
R67 VSS.t16 VSS.n10 0.00444295
R68 VSS.n13 VSS.n12 0.00279989
R69 VSS.n17 VSS.n16 0.00279989
R70 VSS.n5 VSS.n0 0.00156596
R71 VSS.t7 VSS.n6 21.7406
R72 VSS.t7 VSS.n9 60.5164
R73 VSS.t13 VSS.n8 39.3632
R74 VSS.n3 VSS.n0 0.00678518
R75 VSS.n16 VSS.n7 0.00544841
R76 VSS.t13 VSS.n1 42.8911
C0 SIGP VSS 96.6152f
.ends
